US03969373
To a suspension of 5.6 g of 4-(2-carboxyethyl)benzalacetophenone and 20 ml of 1N sodium hydroxide solution was added 4 ml of 30% hydrogen peroxide at room temperature. The mixture was cooled in an ice-bath and 15 ml of 0.5N sodium hydroxide solution was added dropwise over a few min. with stirring. The reaction mixture was stirred at room temperature for 3 hrs. and then the pH was adjusted from 9.4 to 4.5 by the addition of 1N hydrochloric acid. After about 1/2 hr., the precipitate was collected. The precipitate was dissolved in 200 ml of ethyl acetate, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated. The residue was dissolved in 100 ml of boiling ethyl acetate. About 50 ml of the solvent was evaporated and 50 ml of ether was added. The solution was concentrated to about 25 ml and after standing at room temperature for 17 hrs., the solid was collected, washed with 1:4-ethyl acetate-ether followed by ether and dried under vacuum at 60°-65°C to give 3.3 g (55%) of 3-[4-(2-carboxyethyl)phenyl]-1-phenyl-2,3-epoxy-1-propanone as colorless crystals.

reactant | 4-(2-carboxyethyl)benzalacetophenone | 5.6 g | C(=O)(O)CCC1=CC=C(C=CC(=O)C2=CC=CC=C2)C=C1 | C18H16O3
reactant | hydrogen peroxide | 4 ml | OO | H2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | sodium hydroxide | 0.5N, 15 ml | [OH-].[Na+]
product | 3-[4-(2-carboxyethyl)phenyl]-1-phenyl-2,3-epoxy-1-propanone | 3.3 g, 55% | C(=O)(O)CCC1=CC=C(C=C1)C1C(C(=O)C2=CC=CC=C2)O1 | C18H16O4
